### PR TITLE
[Merged by Bors] - chore(CategoryTheory): remove `backward` options using `implicit_reducible`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR removes a lot of the transparency related `set_option`. I did this by using `#defeq_abuse in` to determine which definition was not being unfolded, and then tagging such definitions with `implicit_reducible`.

In particular `backward.isDefEq.respectTransparency` can almost always be removed like this, but `backward.defeqAttrib.useBackward` is still sometimes tricky to remove.

Presumably, the changes from this PR will let us remove many more `set_option` in further files that this PR doesn't touch.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Whysoserioushah** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/798faae9f1747875158f3d25a69b85a77fc90b88?reference=d732046e27b217ada79387287ede948126c8cf40) for 798faae9f1747875158f3d25a69b85a77fc90b88 against d732046e27b217ada79387287ede948126c8cf40 are in. There are significant results. @Whysoserioushah

- 🟥 `build//instructions`: **+20.0G** (**+0.01%**)

**Large changes (1🟥)**

- 🟥 `build/module/Mathlib.AlgebraicGeometry.Group.Affine//instructions`: **+34.2G** (**+31.43%**)

**Small changes (3✅)**

- ✅ `build/module/Mathlib.Algebra.Category.CoalgCat.ComonEquivalence//instructions`: **-1.5G** (**-2.84%**)
- ✅ `build/module/Mathlib.CategoryTheory.Localization.Predicate//instructions`: **-2.0G** (**-10.16%**)
- ✅ `build/module/Mathlib.CategoryTheory.Localization.Trifunctor//instructions`: **-1.1G** (**-3.55%**)

File: Mathlib/CategoryTheory/Opposites.lean [hunk 1]
```diff
@@ -825,13 +785,11 @@ def unop (e : Cᵒᵖ ≌ Dᵒᵖ) : C ≌ D where
 
 #adaptation_note
 /-- `respectTransparency.types true` changes the auto-generated lemmas' signature -/
-set_option backward.isDefEq.respectTransparency.types false in
 /-- An equivalence between `C` and `Dᵒᵖ` gives an equivalence between `Cᵒᵖ` and `D`. -/
 @[simps!] def leftOp (e : C ≌ Dᵒᵖ) : Cᵒᵖ ≌ D := e.op.trans (opOpEquivalence D)
 
 #adaptation_note
 /-- `respectTransparency.types true` changes the auto-generated lemmas' signature -/
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Opposites.lean]: can you please remove the adaptation note as well? Same a few lines above.

File: Mathlib/CategoryTheory/Equivalence.lean [hunk 2]
```diff
@@ -676,12 +672,13 @@ end Functor
 
 namespace Functor
 
-
+set_option backward.defeqAttrib.useBackward true in
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Equivalence.lean]: The proof is in fact exactly `(NatIso.naturality_2 (α := F.asEquivalence.counitIso) (f := f)).symm` (without a `by simpa using!`), so you can remove this `set_option` entirely.
an alternative is to make the proof 
```
  simpa [-Equivalence.fun_inv_map] using!
    (NatIso.naturality_2 (α := F.asEquivalence.unitIso) (f := f)).symm
```
similarly below

File: Mathlib/CategoryTheory/Equivalence.lean [hunk 3]
```diff
@@ -425,6 +420,7 @@ theorem invFunIdAssoc_hom_app (e : C ≌ D) (F : D ⥤ E) (X : D) :
   dsimp [invFunIdAssoc]
   simp
 
+set_option backward.defeqAttrib.useBackward true in
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Equivalence.lean]: Can you please make `Functor.whiskerLeft` (and `Functor.whiskerRight`) implicit_reducible as well? This is what is needed to make this one go away.

File: Mathlib/CategoryTheory/Equivalence.lean [hunk 4]
```diff
@@ -384,6 +378,7 @@ lemma symm_unit (e : C ≌ D) : e.symm.unit = e.counitInv := rfl
 
 variable {E : Type u₃} [Category.{v₃} E]
 
+set_option backward.defeqAttrib.useBackward true in
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Equivalence.lean]: This is not needed if you make `Functor.whiskerLeft` and `Functor.whiskerRight` `implicit_reducible`.

File: Mathlib/CategoryTheory/Equivalence.lean [hunk 5]
```diff
@@ -340,7 +334,7 @@ def adjointifyη : 𝟭 C ≅ F ⋙ G := by
     _ ≅ 𝟭 C ⋙ F ⋙ G := isoWhiskerRight η.symm (F ⋙ G)
     _ ≅ F ⋙ G := leftUnitor (F ⋙ G)
 
-set_option backward.isDefEq.respectTransparency false in
+set_option backward.defeqAttrib.useBackward true in
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Equivalence.lean]: ditto: the root cause is `Functor.whiskerLeft` and `Functor.whiskerRight`.

File: Mathlib/CategoryTheory/Limits/Shapes/Equalizers.lean [hunk 6]
```diff
@@ -934,17 +912,16 @@ section
 variable {f g}
 
 /-- The identity determines a cone on the equalizer diagram of `f` and `g` if `f = g`. -/
+@[implicit_reducible]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/Equalizers.lean:915]: Can you also tag `idCofork` with `implicit_reducible`?

**Review by robin-carlier — COMMENTED** [review]
Thanks! The only added `set_option backward.defeqAttrib.useBackward true` that seems a bit painful to remove is the one on `compUliftCoyonedaIso`. it is possible (but untested) that `Equiv.ulift`, `CategoryTheory.uliftYoneda`, and `Equiv.toIso` need to be implicit_reducible for this one.

**Comment by JovanGerb** [comment]
Thanks for the review!

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

**Comment by joelriou** [comment]
Thanks!

bors merge
